US07576103B2
2-(5-Benzenesulfonyl-indan-1-yloxy)-acetamide was prepared from (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yloxy)-acetic acid ethyl ester using the procedure of step 3 of Example 1, but replacing the methylamine hydrochloride with ammonia. MS: 332 (M+H)+.

reactant | (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yloxy)-acetic acid ethyl ester | C(C)OC(COC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C20H22O5S
reactant | ammonia | N | H3N
product | 2-(5-Benzenesulfonyl-indan-1-yloxy)-acetamide | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCC(C2=CC1)OCC(=O)N | C17H17NO4S
